US05672597
N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(ethoxycarbonylamino)ethylthio]acetamide
There was dissolved 2.7 g (0.0072 mol) of N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2(2-aminoethylthio)acetamide in 20 ml of pyridine and added dropwise 0.78 g (0.0072 mol) of ethylchlorocarbonate under cooling with ice, and the mixture was stirred for 18 hours at room temperature. The obtained reaction mixture was poured into ice water and saturated with sodium chloride. The deposited oily matter was extracted with chloroform and washed with saturated aqueous solution of sodium chloride, and then dried over Glauber's salt. Then the solvent was removed under reduced pressure. The residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 0.8 g of the titled compound as oily matter.

reactant | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2(2-aminoethylthio)acetamide | 0.0072 mol, 2.7 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCN)=O)C=CC1 | C20H31N3O2S
reactant | ethylchlorocarbonate | 0.0072 mol, 0.78 g | C(C)OC(=O)Cl | C3H5ClO2
reactant | sodium chloride | [Cl-].[Na+]
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(ethoxycarbonylamino)ethylthio]acetamide | 0.8 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCNC(=O)OCC)=O)C=CC1 | C23H35N3O4S
